US04269936
Synthesis of 2'-chloro-4-methoxy-5-nitro-α-phthalimidobenzoylacetanilide (Coupler 33):
A mixture of 30 g of 2'-chloro-4-methoxy-5-nitro-α-bromo-benzoylacetanilide and 39 g of phthalimide potassium was stirred in 400 ml of dimethylformamide for 3 hours at room temperature. The reaction product was treated as in Synthesis example 1. Upon recrystallizing the product from methyl cellosolve, 14 g of the Coupler 33 having a melting point of 203°-205° C. was obtained.

reactant | 2'-chloro-4-methoxy-5-nitro-α-bromo-benzoylacetanilide | 30 g | ClC1=C(NC(C(Br)C(C2=CC=C(C(=C2)[N+](=O)[O-])OC)=O)=O)C=CC=C1 | C16H12BrClN2O5
reactant | phthalimide potassium | 39 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2'-chloro-4-methoxy-5-nitro-α-phthalimidobenzoylacetanilide | ClC1=C(NC(C(N2C(C=3C(C2=O)=CC=CC3)=O)C(C3=CC=C(C(=C3)[N+](=O)[O-])OC)=O)=O)C=CC=C1 | C24H16ClN3O7
